US05767131
3-[4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl]propionitrile.
Acrylonitrile (2.33 mL, 35.4 mmol, 2.50 equiv) was added at 0° C. to a solution of 4-(4-chlorophenyl)-4-hydroxypiperidine (3.00 g, 14.2 mmol, 1.00 equiv, Aldrich) in EtOH (30 mL) and the resulting solution was stirred for 1.5 hours at room temperature. The solvent was removed to give 3.71 g (99%) of white solid, which was characterized spectroscopically and used without purification for the next reaction.

reactant | Acrylonitrile | 35.4 mmol, 2.33 mL, 2.50 equiv | C(C=C)#N | C3H3N
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 14.2 mmol, 3.00 g, 1.00 equiv | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
solvent | EtOH | 30 mL | CCO | C2H6O
product | 3-[4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl]propionitrile | 3.71 g, 99% | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC#N)O | C14H17ClN2O
